US04713457
1-(6-Methylergolin-8β-ylmethyl)-1,2,4-triazole
0.4 g of 50% sodium hydride in an oil was added in small portions to a mixture of 2.0 g of 1,2,4-triazole and 20 ml of dimethylformamide, and the resulting mixture was stirred for 30 minutes. 2.0 g of 6-methylergolin-8β-ylmethyl tosylate was added to the mixture which was then heated on a water bath for 1 hour. After allowing the mixture to cool, water was added to the reaction mixture, and the precipitated crystals were separated by filtration, washed with water and purified by alumina column chromatography (eluted with dichloromethane). The product was recrystallized from methanol to obtain 0.8 g of the titled compound as colorless needles having a melting point of 245°-253° C.

reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 1,2,4-triazole | 2.0 g | N1N=CN=C1 | C2H3N3
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 6-methylergolin-8β-ylmethyl tosylate | 2.0 g | S(=O)(=O)(OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)C3=CC=C(C)C=C3 | C23H26N2O3S
solvent | water | O | H2O
product | 1-(6-Methylergolin-8β-ylmethyl)-1,2,4-triazole | 0.8 g | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CN3N=CN=C3 | C18H21N5
